US05008267
In 30 ml of chloroform were added 3 g of 4-nitrobenzoyl chloride, 3.3 g of 2-aminoethyl bromide hydrobromide and 3.9 ml of pyridine under ice cooling, and they were stirred at the same temperature for 1 hour. The reaction mixture was then washed with water, and the resulting organic layer was concentrated to obtain a crude product of 2-(4-nitrobenzoylamino)ethyl bromide. Afterward, the latter was recrystallized from hexane/ethanol, the resulting crystals were collected by filtration, washed and dried to prepare 2.9 g of 2-(4-nitrobenzoylamino)ethyl bromide (compound 46).

reactant | 4-nitrobenzoyl chloride | 3 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | 2-aminoethyl bromide hydrobromide | 3.3 g | Br.NCCBr
reactant | pyridine | 3.9 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-nitrobenzoylamino)ethyl bromide | [N+](=O)([O-])C1=CC=C(C(=O)NCCBr)C=C1 | C9H9BrN2O3
